US06573293B2
4-Methyl-5-(1-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid
1-Methyl-1,3-dihydroindol-2-one (147 mg, 1 mmol) was condensed with 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (153 mg) using method D to give 250 mg (86%) of the title compound.

reactant | 1-Methyl-1,3-dihydroindol-2-one | 1 mmol, 147 mg | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 153 mg | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
product | 4-Methyl-5-(1-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid | 250 mg, 86% | CC=1C=C(NC1C=C1C(N(C2=CC=CC=C12)C)=O)C(=O)O | C16H14N2O3
